US08686150B2
(c) 6-Benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane
Under Argon atmosphere to a solution of 10.78 g of 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decan-10-one in 160 ml of THF 33 ml of a 2.4 M solution of lithium aluminium hydride in THF were slowly added. The reaction was heated to 55° C., and 5 ml of chlorotrimethylsilane were added dropwise. The reaction was kept at 55-60° C. for 2.5 h and then cooled to 0° C. 16 ml of water were added dropwise, and THF was added. The mixture was filtered by suction over celite and the filtrate was concentrated in vacuo. The product was precipitated by treatment with methyl tert-butyl ether. 9.47 g (93%) of the title compound were obtained.

reactant | 6-benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decan-10-one | 10.78 g | C(C1=CC=CC=C1)N1C2(CCCC2)C(NC(C1)(C)C)=O | C17H24N2O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | chlorotrimethylsilane | 5 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 16 ml | O | H2O
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | 6-Benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decane | 9.47 g, 93% | C(C1=CC=CC=C1)N1C2(CCCC2)CNC(C1)(C)C | C17H26N2
